US07834013B2
4-Methyl-2-(phenyloxy)-1,3-thiazole-5-carbaldehyde (X-4a)
A mixture of [4-methyl-2-(phenyloxy)-1,3-thiazol-5-yl]methanol (X-3a) (0.109 g, 0.492 mmol) and MnO2 (0.22 g, 2.56 mmol) in chloroform (2.5 mL) was stirred at RT for 2 h. More MnO2 was added (0.22 g) and continued to stir overnight. Additional MnO2 was added (0.40 g), and the mixture stirred for 3 days. The mixture was filtered through a pad of Celite, and the Celite was washed with EtOAc. The filtrate was concentrated, and the crude material was purified by chromatography (EtOAc/hexanes) to give the title compound as a colorless oil (0.086 g, 80%). 1H NMR (400 MHz, CDCl3) δ 9.93 (s, 1H), 7.46 (t, J=8.0 Hz, 2H), 7.33 (t, J=7.4 Hz, 1H), 7.29-7.27 (m, 2H), 2.60 (s, 3H).

reactant | [4-methyl-2-(phenyloxy)-1,3-thiazol-5-yl]methanol | 0.492 mmol, 0.109 g | CC=1N=C(SC1CO)OC1=CC=CC=C1 | C11H11NO2S
solvent | chloroform | 2.5 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 2.56 mmol, 0.22 g | O=[Mn]=O
product | 4-Methyl-2-(phenyloxy)-1,3-thiazole-5-carbaldehyde | 0.086 g, 80% | CC=1N=C(SC1C=O)OC1=CC=CC=C1 | C11H9NO2S
